US04363807
N,N'-Dicyclohexylcarbodiimide (10.8 g.) and pyridine (1.4 g.) were added to a solution of t-butyl 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylate (7.1 g.) in dimethylsulfoxide (30 ml.) and benzene (80 ml.). Trifluoroacetic acid (1.0 g.) was added dropwise to the stirred solution at room temperature and stirred overnight. The insoluble substance was filtered off and then ethyl acetate (100 ml.) and water (100 ml.) were added to the filtrate. After filtration, the organic layer was separated and adjusted to pH 3.0, washed with water and saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with petroleum ether to give t-butyl 7-(2-phenylacetamido)-3-formylcepham-4-carboxylate (7.0 g.)

reactant | N,N'-Dicyclohexylcarbodiimide | 10.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pyridine | 1.4 g | N1=CC=CC=C1 | C5H5N
reactant | t-butyl 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylate | 7.1 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)CO)C(=O)OC(C)(C)C)C1=O | C20H26N2O5S
reactant | Trifluoroacetic acid | 1.0 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | t-butyl 7-(2-phenylacetamido)-3-formylcepham-4-carboxylate | 7.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)C=O)C(=O)OC(C)(C)C)C1=O | C20H24N2O5S
